US04272525
A. N,N'-Bis-(9-Fluorenylmethyloxycarbonyl)-D-Lysine
To a stirred solution of D-lysine hydrochloride (4.5 g) in 175 ml of a sodium carbonate solution (10% in water):acetone (6:1) solution is added dropwise a solution of 9-fluorenylmethyl azidoformate in acetone (150 ml). After 16 hours the mixture is diluted with water and washed three times with hexane. The mixture is then acidified with concentrated hydrochloric acid and extracted three times with ethyl acetate. The ethyl acetate solution is washed successively with dilute hydrochloric acid, water, saturated sodium bicarbonate solution, and brine, dried over magnesium sulfate, then concentrated in vacuo to about 20 ml. The solution is added to hexane (1 l.) and the precipitate is collected and dried to afford the title compound: NMR (dimethylsulfoxide) δ1.0-1.9 (m, 6H), 2.7-3.2 (m,2H), 3.8-4.7 (m,7H), 6.8-8.3 (m,19H).

reactant | D-lysine hydrochloride | 4.5 g | Cl.N[C@H](CCCCN)C(=O)O
reactant | 9-fluorenylmethyl azidoformate | N(=[N+]=[N-])C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11N3O2
solvent | sodium carbonate | 175 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N,N'-Bis-(9-Fluorenylmethyloxycarbonyl)-D-Lysine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](CCCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C36H34N2O6
